US07015343B2
said abietic acid at 200–300° C. for 1–5 hours with the catalyst of 0.1–5% (wt) of 5%–10% palladium/carbon, or incubating directly at 220–380° C. After incubation and cooling down, adding 0.5 to 10-fold (volume) solvent, said solvent can be any one of methanol, ethanol, propenol, acetyester acetic acid, benzene and methbenzene, keeping refluxed for 1–3 hours, filtering when it is warm, cooling down, allowing it to stand for overnight and be crystallized. Dehydroabietic acid is obtained after filtering.

reactant | abietic acid | CC(C)C1=CC2=CC[C@@H]3[C@@]([C@H]2CC1)(CCC[C@@]3(C)C(=O)O)C | C20H30O2
reactant | methanol | CO | CH4O
reactant | ethanol | C(C)O | C2H6O
reactant | propenol | C(=CC)O | C3H6O
catalyst | palladium/carbon | [Pd] | Pd
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Dehydroabietic acid | CC(C)C=1C=CC2=C(C1)CC[C@@H]3[C@@]2(CCC[C@@]3(C)C(=O)O)C | C20H28O2
